US03940421
9-[4-(Diethylamino)butyryloxy]-1,2-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran hydrochloride
0.5 g. (1.39 mmole) of 1,2-dihydro-4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran, 0.31 g. (1.50 mmole; Aldrich Chemical Co.) of dicyclohexylcarbodiimide and 0.272 g. (1.39 mmole) of 4-diethylaminobutyric acid hydrochloride (F. F. Blicke, W. B. Wright, Jr., and M. R. Zienty, J. Amer. Chem. Soc., 63 2488 (1941)) were combined in 30 ml. of methylene chloride and stirred at room temperature for 4 hours. The insoluble by-product of dicyclohexylurea was separated by filtration and the methylene chloride was removed on a rotary evaporator. Attempts to crystallize the material were unsuccessful and 400 mg. (53%) of dark brown residue was obtained. The structure was confirmed by the IR and NMR spectra; and TLC gave Rf 0.5 in 5% MeOH/CHCl3. The acid addition salt may be converted to the free base form by methods well known in the art, and the resulting free base form may then be reacted with another suitable acid to form a different acid addition salt.

reactant | 1,2-dihydro-4,4-dimethyl-9-hydroxy-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran | 1.39 mmole | CC1(OC2=C(C3=C1SCC3)C(=CC(=C2)C(C)C(CCCCC)C)O)C | C22H32O2S
reactant | dicyclohexylcarbodiimide | 1.50 mmole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 4-diethylaminobutyric acid hydrochloride | 1.39 mmole | Cl.C(C)N(CCCC(=O)O)CC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 9-[4-(Diethylamino)butyryloxy]-1,2-dihydro-4,4-dimethyl-7-(3-methyl-2-octyl)-4H-thieno[2,3-c][1]benzopyran hydrochloride | 53% | Cl.C(C)N(CCCC(=O)OC1=CC(=CC2=C1C1=C(C(O2)(C)C)SCC1)C(C)C(CCCCC)C)CC | InChI=1S/C30H47NO3S.ClH/c1-8-11-12-14-21(4)22(5)23-19-25(33-27(32)15-13-17-31(9-2)10-3)28-24-16-18-35-29(24)30(6,7)34-26(28)20-23;/h19-22H,8-18H2,1-7H3;1H
